US07875640B2
2-methoxy-5-(trifluoromethyl)benzoyl chloride
A solution of the 2-methoxy-5-(trifluoromethyl)benzoic acid (0.68 g, 3.1 mmol) in thionyl chloride (10 mL) was warmed to reflux and was allowed to stir for 2 h. The mixture was cooled to ambient temperature, concentrated under reduced pressure and diluted with 10 mL toluene. This material was again concentrated under reduced pressure and was again diluted with 10 mL toluene. This concentration and dilution was repeated for an additional time and the crude acid chloride was carried on.

reactant | 2-methoxy-5-(trifluoromethyl)benzoic acid | 3.1 mmol, 0.68 g | COC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C9H7F3O3
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-methoxy-5-(trifluoromethyl)benzoyl chloride | COC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C9H6ClF3O2
